US07858640B2
(3-amino-4-fluorophenoxy)acetic Acid Methyl Ester
3-Amino-4-fluorophenol (3.0 g) was added to a stirred suspension of sodium hydride (60% in oil, 0.94 g) in N,N-dimethylformamide (30 mL) at 0° C. The mixture was warmed to room temperature for 15 minutes and then cooled to 0° C. and this mixture was treated with bromoacetic acid methyl ester (3.3 g). The resulting mixture was warmed to room temperature and then stirred at this temperature for 2 hours. The mixture was diluted with dilute aqueous ammonium chloride solution and extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of toluene, dichloromethane and ethyl acetate (2:1:0 to 0:1:0 to 0:20:1 by volume) gave title compound, 2.7 g.

reactant | 3-Amino-4-fluorophenol | 3.0 g | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | sodium hydride | 0.94 g | [H-].[Na+]
reactant | bromoacetic acid methyl ester | 3.3 g | COC(CBr)=O | C3H5BrO2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | (3-amino-4-fluorophenoxy)acetic Acid Methyl Ester | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
